US06765012B2
3-{[4-(1-Methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine (656 mg, 1.2 equiv.) and 3-hydroxymethylene-1,3-dihydro-indol-2-one (400 mg, 2.48 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (732 mg, 81%).

reactant | 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine | 656 mg, 1.2 equiv. | CN1CC(CCC1)COC1=CC=C(C=C1)N | C13H20N2O
reactant | 3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.48 mmol, 400 mg, 1 equiv. | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
product | 3-{[4-(1-Methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 732 mg, 81% | CN1CC(CCC1)COC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C22H25N3O2
